US07135047B2
1.1.1 N-2-(morpholin-4-yl)ethyl-3-nitroaniline
28.2 g 3-fluoronitrobenzene and 143 g 4-(2-aminoethyl)morpholine were dissolved in 300 ml dimethyl sulfoxide, and the batch was stirred for 60 h at 100° C. After cooling, the batch was poured into 1 l water. The mixture was extracted several times with methyl tert-butyl ether, and the combined organic phases were reduced to dryness in a rotary evaporator, yielding a dark liquid.

reactant | 3-fluoronitrobenzene | 28.2 g | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-(2-aminoethyl)morpholine | 143 g | NCCN1CCOCC1 | C6H14N2O
reactant | water | 1 l | O | H2O
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
product | N-2-(morpholin-4-yl)ethyl-3-nitroaniline | N1(CCOCC1)CCNC1=CC(=CC=C1)[N+](=O)[O-] | C12H17N3O3
